US08791123B2
Ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate (Preparation B, 0.75 g, 3.32 mmol), (R)-5-fluoro-2-methoxy-3-(pyrrolidin-2-yl)pyridine dihydrochloride (0.984 g, 3.66 mmol), diisopropylethylamine (2.32 mL, 13.3 mmol) and n-butanol (1.11 mL) were heated at 90° C. for 48 hours. The reaction mixture was diluted with EtOAc and the mixture was washed with water, brine and saturated NaHCO3. The organic layer was dried with MgSO4, filtered and concentrated afford a dark orange oil. The oil was purified by silica chromatography, eluting with a 50-80% EtOAc/Hexane gradient, to afford (R)-ethyl 5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (0.72 g, 56.2%) as a yellow foam. MS (apci) m/z=386.0 (M+H).

reactant | Ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate | 3.32 mmol, 0.75 g | ClC1=NC=2N(C=C1)N=CC2C(=O)OCC | C9H8ClN3O2
reactant | (R)-5-fluoro-2-methoxy-3-(pyrrolidin-2-yl)pyridine dihydrochloride | 3.66 mmol, 0.984 g | Cl.Cl.FC=1C=C(C(=NC1)OC)[C@@H]1NCCC1
reactant | diisopropylethylamine | 13.3 mmol, 2.32 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | n-butanol | 1.11 mL | C(CCC)O | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-ethyl 5-(2-(5-fluoro-2-methoxypyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.72 g, 56.2% | FC=1C=C(C(=NC1)OC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C19H20FN5O3
